### PR TITLE
[Merged by Bors] - chore: review of `nolint simpNF`

### LINKED ISSUE #18942: `@[simps]` is sometimes used to generate lemmas that we don't want `@[simp]` on
Tracking issue for cases where we use `@[simps]` to generate lemmas for projections, but then don't actually want the `@[simp]` attribute on the generated lemmas, and consequently add `@[nolint simpNF]`.

We *could* modify `@[simps]` itself to provide an option to not add `@[simp]` to the generated lemma.

Alternatively, I recommend just deleting the `@[simps]` if the generated lemmas aren't currently being used at all.

### PR DESCRIPTION
**Pull request by kim-em**
Closes #18942.

### CODE REVIEW

**Comment by kim-em** [comment]
In the interest of getting this through review quickly, please feel encouraged to revert any files/lines that you disagree with, or merely want to postpone, without any discussion. :-)

File: Mathlib/NumberTheory/Divisors.lean [hunk 1]
```diff
@@ -240,17 +240,11 @@ theorem divisorsAntidiagonal_one : divisorsAntidiagonal 1 = {(1, 1)} := by
   ext
   simp [mul_eq_one, Prod.ext_iff]
 
-/- Porting note: simpnf linter; added aux lemma below
-Left-hand side simplifies from
-  Prod.swap x ∈ Nat.divisorsAntidiagonal n
-to
-  x.snd * x.fst = n ∧ ¬n = 0-/
--- @[simp]
+-- The left hand side is not in side normal form, see the variant below.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean:243]:
```suggestion
-- The left hand side is not in simp normal form, see the variant below.
```
?

File: Mathlib/FieldTheory/IntermediateField/Basic.lean [hunk 2]
```diff
@@ -462,14 +462,10 @@ def intermediateFieldMap (e : L ≃ₐ[K] L') (E : IntermediateField K L) : E 
 
 /- We manually add these two simp lemmas because `@[simps]` before `intermediate_field_map`
   led to a timeout. -/
```
Comment (YaelDillies) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean:464]: Irrelevant now?

File: Mathlib/GroupTheory/GroupAction/ConjAct.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/ConjAct.lean:1]: All of these are valid dsimp lemmas (sorry, can't change myself because I am commuting)

File: Mathlib/LinearAlgebra/DFinsupp.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/DFinsupp.lean:1]: Looks like a vamlid dsimp lemma

File: Mathlib/Algebra/Category/Semigrp/Basic.lean [hunk 3]
```diff
@@ -100,7 +100,7 @@ def ofHom {X Y : Type u} [Mul X] [Mul Y] (f : X →ₙ* Y) : of X ⟶ of Y := f
 /-- Typecheck an `AddHom` as a morphism in `AddMagmaCat`. -/
 add_decl_doc AddMagmaCat.ofHom
 
-@[to_additive] -- Porting note: simp removed, simpNF says LHS simplifies to itself
+@[to_additive]
 theorem ofHom_apply {X Y : Type u} [Mul X] [Mul Y] (f : X →ₙ* Y) (x : X) : ofHom f x = f x :=
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Category/Semigrp/Basic.lean:104]: (yes, because it's a category theoretic statement)

File: Mathlib/Algebra/Order/CompleteField.lean [hunk 4]
```diff
@@ -99,7 +99,6 @@ variable {β}
 @[simp]
 theorem mem_cutMap_iff : b ∈ cutMap β a ↔ ∃ q : ℚ, (q : α) < a ∧ (q : β) = b := Iff.rfl
 
--- @[simp] -- Porting note: not in simpNF
 theorem coe_mem_cutMap_iff [CharZero β] : (q : β) ∈ cutMap β a ↔ (q : α) < a :=
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/Algebra/Order/CompleteField.lean:102]: The first lemma just gets rid of this predicate always. Whereas this lemma is able to simplify further in a special case.

File: Mathlib/Algebra/Category/Semigrp/Basic.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (kim-em) [reply Mathlib/Algebra/Category/Semigrp/Basic.lean:104]: It's not currently a simp lemma, and it has not been for a year, and everything has been fine. 

Adding `@[simp]` is definitely out of scope for this PR, although I would encourage people noticing `simp`s they would like to add to the library to do so in separate PRs.

File: Mathlib/FieldTheory/IntermediateField/Basic.lean (hunk 2 above)
Comment (kim-em) [inline Mathlib/FieldTheory/IntermediateField/Basic.lean:464]:
```suggestion
```

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (kim-em) [reply Mathlib/Algebra/Order/CompleteField.lean:102]: Please continue this in a separate PR, thanks.

File: Mathlib/GroupTheory/GroupAction/ConjAct.lean
Comment (kim-em) [reply Mathlib/GroupTheory/GroupAction/ConjAct.lean:1]: Reverted.

File: Mathlib/LinearAlgebra/DFinsupp.lean
Comment (kim-em) [reply Mathlib/LinearAlgebra/DFinsupp.lean:1]: Reverted

**Comment by kim-em** [comment]
Closes #18942.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by TwoFX — APPROVED** [review]
bors r+
